US08026257B2
7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-benzo[d][1,2,3]triazole.
tert-Butyl 4-(4-fluorophenyl)-4-(((6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methoxy)methyl)piperidine-1-carboxylate (120 mg, 0.188 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 2 mL) and stirred at room temperature for 4 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted using 2M ammonia in methanol and concentrated to give 75 mg (98%) as an amorphous solid. LC/MS (HPLC method 4): tR=2.28 min, 409.15(MH)+.

reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methoxy)methyl)piperidine-1-carboxylate | 0.188 mmol, 120 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC=2N(N=NC21)COCC[Si](C)(C)C)C(F)(F)F | C31H42F4N4O4Si
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-benzo[d][1,2,3]triazole | FC1=CC=C(C=C1)C1(CCNCC1)COCC1=CC(=CC2=C1NN=N2)C(F)(F)F | C20H20F4N4O
